### PR TITLE
feat: add support for lattice-theoretic (co)inductive predicates

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR adds support for inductive and coinductive predicates defined using lattice theoretic structures on `Prop`. These are syntactically defined using  `greatest_fixpoint` or `least_fixpoint` termination clauses for recursive `Prop`-valued functions. The functionality relies on `partial_fixpoint` machinery and requires function definitions to be monotone. For non-mutually recursive predicates, an appropriate (co)induction proof principle (given by Park induction) is generated.

Summary of changes:
- `Interal.Order.Basic` now contains `CompleteLattice` class, as well as version of Knaster-Tarski fixpoint theorem (with an associated Park induction principle) for the internal use for defining (co)inductive predicates. `Prop` is shown to have two complete lattice structures (one given by implication order for defining inductive predicates, and one given by reverse implication for defining coinductive predicates). Additionally, proofs that lattices are closed under products and function spaces are included.
- Partial fixpoint's `EqnInfo` now additionally carries an information whether something is defined as a lattice-theoretic fixpoint or via CCPOs.
- When constructing a (co)inductive predicate,`PartialFixpoint/Main` builds an appropriate lattice structure on the type of the predicate using product lattice, function space lattice and an appropriate lattice instance on `Prop`.
- `PartialFixpoint/Eqns` is modified to be able to perform rewrite under lattice-theoretic fixpoint construction
- `PartialFixpoint/Induction`contains a case split for handling of the (co)inductive predicates. In the case of lattice-theoretic fixpoints, it appropriately desugars the Park induction principle.

### CODE REVIEW

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean [hunk 1]
```diff
@@ -50,6 +50,23 @@ def CCPOProdProjs (n : Nat) (inst : Expr) : Array Expr := Id.run do
...
 
+def desugarOrder (predType : Expr) (body : Expr) (reduceRhs : Bool := false) (fixpointType : Option Bool) : MetaM (Expr) := do
+  if fixpointType.isNone then
+    throwError "Trying to apply lattice induction to a non-lattice fixpoint. Please report this issue."
+  if body.isAppOfArity ``PartialOrder.rel 4 then
+    let lhsTypes ← forallTelescope predType (fun ts _ =>  ts.mapM inferType)
+    let names ← lhsTypes.mapM (fun _ => mkFreshUserName `x)
+    let bodyArgs := body.getAppArgs
+    withLocalDeclsDND (names.zip lhsTypes) fun exprs => do
+      let mut applied := if fixpointType.get! then (bodyArgs[2]!, bodyArgs[3]!) else (bodyArgs[3]!, bodyArgs[2]!)
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean:61]: This is a bit obscure, because of Boolean Blindness.

I’d suggest to use
```
inductive PredFixPointType where | inductive | coinductive
```
for `fixpointType` so that you can match on here with speaking branch names.

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean [hunk 2]
```diff
@@ -50,6 +50,23 @@ def CCPOProdProjs (n : Nat) (inst : Expr) : Array Expr := Id.run do
...
+      for e in exprs do
+        applied := (mkApp applied.1 e, mkApp applied.2 e)
+      if reduceRhs then
+        applied := (applied.1, ←whnf applied.2)
+      mkForallFVars exprs (←mkArrow applied.1 applied.2)
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean:66]:
```suggestion
        applied := (applied.1, (← whnf applied.2))
      mkForallFVars exprs (←mkArrow applied.1 applied.2)
```
I had to get used to that as well, but Leo strongly suggests always using parentheses around `← foo` in monadic code, even if not strictly required by the term syntax. (And spaces after `←`)

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean [hunk 3]
```diff
@@ -66,90 +83,152 @@ private def numberNames (n : Nat) (base : String) : Array Name :=
...
-                return mkApp motive fInst
-            let e' ← mkExpectedTypeHint e' packedConclusion
-            let e' ← mkLambdaFVars hs e'
-            let e' ← mkLambdaFVars adms e'
-            let e' ← mkLambdaFVars motives e'
-            let e' ← mkLambdaFVars (binderInfoForMVars := .default) (usedOnly := true) xs e'
-            let e' ← instantiateMVars e'
-            trace[Elab.definition.partialFixpoint.induction] "complete body of fixpoint induction principle:{indentExpr e'}"
-            pure e'
+    let e' ← if eqnInfo.fixpointType.all isLatticeTheoretic then
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean:91]: Opening the fixed parameters should happen in either case, right? So maybe keep that outside the `if-then-else`.

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean [hunk 4]
```diff
@@ -66,90 +83,152 @@ private def numberNames (n : Nat) (base : String) : Array Name :=
...
+      let leastOrGreatest : Option Bool := match eqnInfo.fixpointType[0]! with
+        | .leastFixpoint => Option.some true
+        | .greatestFixpoint => Option.some false
+        | _ => Option.none
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean:95]: I see you already have a datatype here. Keep using it! I think it obscures the code to turn this nice data type into an `Option Bool`.

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean [hunk 5]
```diff
@@ -66,90 +83,152 @@ private def numberNames (n : Nat) (base : String) : Array Name :=
...
+      if (eqnInfo.declNames.size != 1) then
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean:96]:
```suggestion
      if eqnInfo.declNames.size != 1 then
```

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean [hunk 6]
```diff
@@ -66,90 +83,152 @@ private def numberNames (n : Nat) (base : String) : Array Name :=
...
+        )
+        -- Desugar partial order on predicates in premises and conclusion
+        let newTyp ← forallTelescope newTyp (fun args conclusion => do
+          let predicate := args[0]!
+          let predicateType ← inferType predicate
+          let premise := args[1]!
+          let premiseType ← inferType premise
+          let premiseType ← desugarOrder predicateType premiseType (reduceRhs := true) leastOrGreatest
+          let newConclusion ← desugarOrder predicateType conclusion
+            (fixpointType := leastOrGreatest)
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean:134]: Inconsistent use of explicit argument name or not.

Maybe leave a comment why you `reduceRhs` in one call, but not the other?

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean [hunk 7]
```diff
@@ -66,90 +83,152 @@ private def numberNames (n : Nat) (base : String) : Array Name :=
...
+          withLocalDecl `y BinderInfo.default premiseType fun newPremise => do
+            let typeHint ← mkExpectedTypeHint newPremise premiseType
+            let argsForInst := args.set! 1 typeHint
+            let argsWithNewPremise := args.set! 1 newPremise
+            let instantiated ← instantiateForall abstracedNewConclusion argsForInst
+            mkForallFVars argsWithNewPremise instantiated
+          )
+
+        let e' ← mkExpectedTypeHint e' newTyp
+        let e' ← mkLambdaFVars (binderInfoForMVars := .default) (usedOnly := true) xs e'
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean:145]:
```suggestion
        let e' ← mkLambdaFVars (binderInfoForMVars := .default) (usedOnly := true) xs e'
```
Are there MVars around here? I would expect from the code above that you are dealing with MVar-free `Expr`.

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Main.lean [hunk 8]
```diff
@@ -72,24 +75,42 @@ def mkMonoPProd (hmono₁ hmono₂ : Expr) : MetaM Expr := do
...
 def partialFixpoint (preDefs : Array PreDefinition) : TermElabM Unit := do
-  -- We expect all functions in the clique to have `partial_fixpoint` syntax
+  -- We expect all functions in the clique to have `partial_fixpoint` or `greatest_fixpoint` syntax
   let hints := preDefs.filterMap (·.termination.partialFixpoint?)
   assert! preDefs.size = hints.size
+  -- We check if any fixpoints were defined lattice-theoretically
+  let isLattice := hints.any (fun x => isLatticeTheoretic x.fixpointType)
+  -- If yes, then we expect all of them to be defined using lattice theory
+  if isLattice then
+    assert! preDefs.size = (hints.filter (fun x => isLatticeTheoretic x.fixpointType)).size
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Main.lean:85]: Why not
```suggestion
  if isLattice then
    assert! hints.all fun x => isLatticeTheoretic x.fixpointType
```

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Main.lean [hunk 9]
```diff
@@ -72,24 +75,42 @@ def mkMonoPProd (hmono₁ hmono₂ : Expr) : MetaM Expr := do
...
+
+  -- We check if the
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Main.lean:87]:
```suggestion
```

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Main.lean [hunk 10]
```diff
@@ -72,24 +75,42 @@ def mkMonoPProd (hmono₁ hmono₂ : Expr) : MetaM Expr := do
...
-          let w ← mkInhabitantFor msg #[] preDef.type
-          let instNonempty ← mkAppM ``Nonempty.intro #[mkAppN w xs]
-          let classicalWitness ← mkAppOptM ``Classical.ofNonempty #[none, instNonempty]
-          mkAppOptM ``FlatOrder.instCCPO #[none, classicalWitness]
+        match hints[i]!.fixpointType with
+        | .greatestFixpoint =>
+          if !type.isProp then
+              throwError "`greatest_fixpoint` can be only used to define predicates"
+          else
+            mkAppOptM ``inst_coind_complete_lattice #[]
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Main.lean:99]: No need to involve type inference; this is a plain constant without level parameters:
```suggestion
            pure (mkConst ``inst_coind_complete_lattice)
```

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Main.lean [hunk 11]
```diff
@@ -72,24 +75,42 @@ def mkMonoPProd (hmono₁ hmono₂ : Expr) : MetaM Expr := do
...
+        | .leastFixpoint =>
+          if !type.isProp then
+            throwError "`least_fixpoint` can be only used to define predicates"
+          else
+            mkAppOptM ``inst_ind_complete_lattice #[]
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Main.lean:104]: This is maybe personal style, bu we can use `unless` to avoid negation

```suggestion
          unless type.isProp do
            throwError "`least_fixpoint` can be only used to define predicates"
          mkAppOptM ``inst_ind_complete_lattice #[]
```

File: src/Init/Internal/Order/Basic.lean [hunk 12]
```diff
@@ -388,6 +503,23 @@ instance instCCPOPi [∀ x, CCPO (β x)] : CCPO (∀ x, β x) where
       subst y
       apply h z hz
 
+instance complete_latticei [∀ x, complete_lattice (β x)] : complete_lattice (∀ x, β x) where
```
Comment (nomeata) [inline src/Init/Internal/Order/Basic.lean:506]:
```suggestion
instance instCompleteLatticePi [∀ x, complete_lattice (β x)] : complete_lattice (∀ x, β x) where
```

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Main.lean [hunk 13]
```diff
@@ -102,17 +123,21 @@ def partialFixpoint (preDefs : Array PreDefinition) : TermElabM Unit := do
...
+    -- Either: CCPO (∀ x y, rᵢ x y)
+    -- Or:     complete_lattice (∀ x y, rᵢ x y)
     let ccpoInsts' ← ccpoInsts.mapM fun inst =>
       lambdaTelescope inst fun xs inst => do
         let mut inst := inst
         for x in xs.reverse do
-          inst ← mkAppOptM ``instCCPOPi #[(← inferType x), none, (← mkLambdaFVars #[x] inst)]
+           inst ← if isLattice then mkAppOptM ``complete_latticei #[(← inferType x), none, (← mkLambdaFVars #[x] inst)]
+            else
+            mkAppOptM ``instCCPOPi #[(← inferType x), none, (← mkLambdaFVars #[x] inst)]
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Main.lean:134]: There are 5 `if isLattice` in this function, obscuring the intent a bit. And the lines are already quite noisy, due to using `mkAppOptM`.

I’d suggest to creat a `Lean.Meta.Order` module with constructions, like
`mkInstPiOfInstForall` that you pass just `x` and `inst` to, and it does the res, including looking at the type of `inst` to figure out if we are dealing with CCPO or CompletLattice.

One might argue that that’s a bit roundabout since the caller has `isLattice`, but it’s hardly going to matter and make this code much more readable.

This file has a few construction helpers already; they can be moved along.

File: src/Lean/Parser/Term.lean [hunk 14]
```diff
@@ -755,6 +755,42 @@ the syntax `partial_fixpoint monotonicity by $tac` the proof can be done manuall
     optional (checkColGt "indentation" >> nonReservedSymbol "monotonicity " >>
               checkColGt "indented monotonicity proof" >> termParser))
 
+/--
+Defines a coinductive predicate using lattice theory, based on the Knaster-Tarski fixpoint theorem.
+
+This feature constructs coinductive predicates by leveraging the lattice structure on `Prop`
+(as provided by `Lean.Order.complete_lattice`) and ensures correctness through monotonicity
+(as defined in `Lean.Order.monotone`).
```
Comment (nomeata) [inline src/Lean/Parser/Term.lean:763]: The `Lean.Order` definitions are somewhat internal, so we maybe shouldn’t mention them in this user-facing docstring.

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Eqns.lean [hunk 15]
```diff
@@ -22,20 +22,21 @@ structure EqnInfo extends EqnInfoCore where
   declNames       : Array Name
   declNameNonRec  : Name
   fixedParamPerms : FixedParamPerms
+  fixpointType    :  Array PartialFixpointType
```
[the remark this answers is not in the document]
Comment (nomeata) [reply src/Lean/Elab/PreDefinition/PartialFixpoint/Eqns.lean:25]: Also, does this array ever contain a mix of fixpoint types? That’s probably not supported, right? So maybe this can just be `PartialFixpointType`?

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean [hunk 16]
```diff
@@ -50,6 +50,23 @@ def CCPOProdProjs (n : Nat) (inst : Expr) : Array Expr := Id.run do
   return insts
 
 
+def desugarOrder (predType : Expr) (body : Expr) (reduceRhs : Bool := false) (fixpointType : Option Bool) : MetaM (Expr) := do
```
[the remark this answers is not in the document]
Comment (nomeata) [reply src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean:53]: A docstring might be helpful; what are the arguments, what the result, and what does `reduceRhs` do?

File: tests/lean/run/coinductive_predicates.lean [hunk 17]
```diff
@@ -0,0 +1,147 @@
...
+-- Application of the rewrite rule
+def infseq_fixpoint {α} (R : α → α → Prop) (x : α) :
+  infseq R x = ∃ y, R x y ∧ infseq R y := by
+    rw [infseq]
+
+-- Usage of the associated coinduction principle
+theorem infseq.coind {α} (h : α → Prop) (R : α → α → Prop)
+  (prem : ∀ (x : α), h x → ∃ y, R x y ∧ h y) : ∀ x, h x → infseq R x := by
+  apply infseq.fixpoint_induct
+  exact prem
```
Comment (nomeata) [inline tests/lean/run/coinductive_predicates.lean:15]: If this test is supposed to check the type of `infseq.fixpoint_induct`, then don’t write a theorem that uses it, but simply use
```
#guard_msgs in #check infseq.fixpoint_induct
```
to document the expected type.

File: tests/lean/run/partial_fixpoint_coinductive_pred.lean [hunk 18]
```diff
@@ -42,8 +43,9 @@ coinductive infinite_chain step : α → Prop where
 ```
 -/
 def infinite_chain {α} (step : α → Option α) (x : α) : Prop :=
-  ∃ y, step x = some y ∧ infinite_chain step y
-partial_fixpoint
+  ∃ y, step x = some y ∧ (infinite_chain step y)
```
Comment (nomeata) [inline tests/lean/run/partial_fixpoint_coinductive_pred.lean:46]: Left-over change?

File: tests/lean/run/coinductive_predicates.lean [hunk 19]
```diff
@@ -0,0 +1,147 @@
+-- Coinductive predicate definition
```
Comment (nomeata) [inline tests/lean/run/coinductive_predicates.lean:1]: We need tests (in a separate test file) for all the ways users can screw up:

* Using `greatest_fixpoint`/`least_fixpoint` on non-preds.
* Using `greatest_fixpoint` on non-recursive definitions.
* Mutual recursion that wildy mixes the annotations. (The code that checks the annotation treats the first one as definite, I believe, so include tests both ways).

**Review by nomeata — COMMENTED** [review]
Good job so far!

Unsurprisingly for your first large PR, there are few mostly unwritten coding style issues, hence the large number of comments, and these issue may also obscure my reviewing, so I’ll do another pass once that’s taken care of.

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Eqns.lean (hunk 15 above)
[the remark this answers is not in the document]
Comment (wkrozowski) [reply src/Lean/Elab/PreDefinition/PartialFixpoint/Eqns.lean:25]: While the mix of partial fixpoint with least/greatest fixpoint is not permitted, we might have a mix of least/greatest fixpoints. We just need to make sure all are defined as partial fixpoints or all are least/greatest fixpoints.

File: tests/lean/run/partial_fixpoint_coinductive_pred.lean (hunk 18 above)
Comment (wkrozowski) [reply tests/lean/run/partial_fixpoint_coinductive_pred.lean:46]: I am not sure if I understand -- this is one of your original test cases for defining coinductive predicates via manually defined CCPO instance on Prop.

File: src/Init/Internal/Order/Basic.lean [hunk 20]
```diff
@@ -669,6 +837,108 @@ instance [Monad m] [∀ α, PartialOrder (m α)] [∀ α, CCPO (m α)] [MonoBind
 
 end mono_bind
 
+section inductive_predicates
+-- Partial order on `Prop` given by implication
+instance inst_ind_po: PartialOrder Prop where
```
[the remark this answers is not in the document]
Comment (wkrozowski) [reply src/Init/Internal/Order/Basic.lean:842]: I am not sure if partial would fail on `Prop`, as it is an inhabited type and it will just try to synthesise an instance of flat order.

[the remark this answers is not in the document]
Comment (nomeata) [reply src/Init/Internal/Order/Basic.lean:842]: Ah, right, but then it should fail when it’s not tail-recursive. So still worth a test case :)

File: tests/lean/run/partial_fixpoint_coinductive_pred.lean (hunk 18 above)
Comment (nomeata) [reply tests/lean/run/partial_fixpoint_coinductive_pred.lean:46]: Sorry for being unclear: Your PR is introducing a diff (adding parenthesis), which looks accidential

File: src/Init/Internal/Order/Basic.lean (hunk 20 above)
[the remark this answers is not in the document]
Comment (wkrozowski) [reply src/Init/Internal/Order/Basic.lean]: I think I have a nice example, where I rely on the fail of monotonicity check; i.e. will work with least/greatest fixpoint (as it uses the provided monotonicity lemmas for order for defining (co)inductive predicates), but will fail with the `partial_fixpoint`, as we have no monotonicity lemmas for `FlatOrder` on `Prop`.

**Comment by wkrozowski** [comment]
Hi @nomeata - I have resolved all your comments and would be more than happy if you could have a look at what I have. No rush though and please do enjoy your weekend :)

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean [hunk 21]
```diff
@@ -57,25 +57,28 @@ I.e `ImplicationOrder.instPartialOrder.rel P Q` becomes
 In the premise of the Park induction principle (`lfp_le_of_le_monotone`) we use a monotone map defining the predicate in the eta expanded form. In such a case, besides desugaring the predicate, we need to perform a weak head reduction.
 The optional parameter `reduceConclusion` (false by default) indicates whether we need to perform this reduction.
 -/
-def desugarOrder (predType : Expr) (body : Expr) (reduceConclusion : Bool := false) (fixpointType : Option Bool) : MetaM Expr := do
-  if fixpointType.isNone then
-    throwError "Trying to apply lattice induction to a non-lattice fixpoint. Please report this issue."
-  if body.isAppOfArity ``PartialOrder.rel 4 then
+def desugarOrder (predType : Expr) (body : Expr) (fixpointType : PartialFixpointType) (reduceConclusion : Bool := false) : MetaM Expr := do
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Induction.lean:60]: Thanks for the docstring! Now I can suggest a better name, since “desugaring” is usually related to syntax. Maybe `unfoldPredRel`, since it unfolds the relation on predicates?

File: tests/lean/run/ coinductive_predicates_errors.lean [hunk 22]
```diff
@@ -0,0 +1,75 @@
...
+/--
+error: `least_fixpoint` can be only used to define predicates
+-/
+#guard_msgs in
+def g (x : Nat) : Nat :=
+  g (x + 1)
+least_fixpoint
+
+/--
+warning: unused `partial_fixpoint`, function is not recursive
```
Comment (nomeata) [inline tests/lean/run/ coinductive_predicates_errors.lean]: This error message is lying :-)

File: tests/lean/run/ coinductive_predicates_errors.lean [hunk 23]
```diff
@@ -0,0 +1,75 @@
...
+-/
+#guard_msgs in
+def h (x : Nat) : Prop := x > 42
+  greatest_fixpoint
+
+/--
+error: all functions in the clique must be defined using lattice theory, but some are not
```
Comment (nomeata) [inline tests/lean/run/ coinductive_predicates_errors.lean]: Should we maybe avoid “lattice theory” in user-facing docs?

Also see the test `tests/lean/termination_by.lean` where we have a similar check for not mixing structural and well-founded recursion. It produces a bit more verbose error messages (pointing out which function is defined like what etc.). Did you see that, and did you try to do the same? (The check is performed in `src/Lean/Elab/PreDefinition/Main.lean`)

Comment (nomeata) [inline tests/lean/run/ coinductive_predicates_errors.lean]: Should we maybe avoid “lattice theory” in user-facing docs?

Also see the test `tests/lean/termination_by.lean` where we have a similar check for not mixing structural and well-founded recursion. It produces a bit more verbose error messages (pointing out which function is defined like what etc.). Did you see that, and did you try to do the same? (The check is performed in `src/Lean/Elab/PreDefinition/Main.lean`)

A test mixing `least_fixpoint` and `termination_by` would also be good :-)

If you feel like it would be useful, maybe move all tests that are about invalid termination hint combinations in mutual groups from here and from `tests/lean/termination_by.lean` into its dedicated `mutual_termination_by_errors.lean` file.

File: src/Lean/Meta/Order.lean [hunk 24]
```diff
@@ -0,0 +1,53 @@
...
+Authors: Wojciech Różowski
+-/
+
+prelude
+import Lean.Meta.InferType
+import Lean.Meta.PProdN
+import Lean.Meta.AppBuilder
+import Init.Internal.Order.Basic
+
+namespace Lean.Meta
```
Comment (nomeata) [inline src/Lean/Meta/Order.lean:13]:
```suggestion
/-!
This module has meta-functions for constructions expressions related to `Lean.Order`.

In particular some of these functions can handle the `CCPO` and `CompleteLattice`
structures conveniently uniformly, picking the right one based on the type of the arguments.
-/

namespace Lean.Meta
```

File: src/Lean/Meta/Order.lean [hunk 25]
```diff
@@ -0,0 +1,53 @@
...
+open Order
+
+def mkInstPiOfInstForall (x : Expr) (inst : Expr) : MetaM Expr := do
```
Comment (nomeata) [inline src/Lean/Meta/Order.lean:16]: Our future selves will probably be grateful for

```suggestion
/--
Given `inst : CCPO (t[x])` for some FVar `x`, constructs an instance
of the type type; `CCPO (∀ x, t[x])`.
Can handle `CompleteLattice` as well.
-/
def mkInstPiOfInstForall (x : Expr) (inst : Expr) : MetaM Expr := do
  assert! x.isFVar
```

And similar docstrings below.

File: src/Lean/Elab/PreDefinition/PartialFixpoint/Main.lean [hunk 26]
```diff
@@ -72,47 +70,67 @@ def mkMonoPProd (hmono₁ hmono₂ : Expr) : MetaM Expr := do
...
-  -- We expect all functions in the clique to have `partial_fixpoint` syntax
+  -- We expect all functions in the clique to have `partial_fixpoint` or `greatest_fixpoint` syntax
   let hints := preDefs.filterMap (·.termination.partialFixpoint?)
   assert! preDefs.size = hints.size
+  -- We check if any fixpoints were defined lattice-theoretically
+  let isLattice := hints.any fun x => isLatticeTheoretic x.fixpointType
+  -- If yes, then we expect all of them to be defined using lattice theory
+  if isLattice then
+    unless hints.all fun x => isLatticeTheoretic x.fixpointType do
+      throwError "all functions in the clique must be defined using lattice theory, but some are not"
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/PartialFixpoint/Main.lean:81]: As hinted at in the comment for the test file: This check could happen earlier, in `checkTerminationByHints`, as for the other termination hints. Then this could become an `assert!` here.

**Review by alexkeizer — COMMENTED** [review]
This is very cool! I didn't go through the whole diff yet, but here's some preliminary comments on style

File: src/Lean/Elab/PreDefinition/Main.lean [hunk 27]
```diff
@@ -212,22 +223,58 @@ def checkTerminationByHints (preDefs : Array PreDefinition) : CoreM Unit := do
...
+    -- if the selected one is not marked as partial fixpoint
     if !partialFixpoint then
       if let some stx := preDef.termination.partialFixpoint? then
-      throwErrorAt stx.ref (m!"Invalid `termination_by`; this function is mutually " ++
-       m!"recursive with {preDefWith.declName}, which is not also marked as " ++
-        m!"`nontermination_partialFixpointursive`, so this one cannot be either.")
+        if isPartial stx.fixpointType then
+          throwErrorAt stx.ref (m!"Invalid `termination_by`; this function is mutually " ++
+        m!"recursive with {preDefWith.declName}, which is not also marked as " ++
+          m!"`partial_fixpoint`, so this one cannot be either.")
```
[the remark this answers is not in the document]
Comment (nomeata) [reply src/Lean/Elab/PreDefinition/Main.lean:269]: This may be cargoculting the style I got used to before we got multi line strings (or before I knew about them), so not Wojciech's fault. But the suggestion is valid, so ideally fix throughout the file while you are at it.

File: src/Init/Internal/Order/Basic.lean [hunk 28]
```diff
@@ -109,6 +110,53 @@ theorem bot_le (x : α) : ⊥ ⊑ x := by
...
+section CompleteLattice
+  /--
+  A complete lattice is a partial order where every subset has a least upper bound.
+  -/
+  class CompleteLattice (α : Sort u) extends PartialOrder α where
+  /--
+  The least upper bound of an arbitrary subset in the complete_lattice.
+  -/
+  sup : (α → Prop) → α
+  sup_spec {c : α → Prop} : sup c ⊑ x ↔ (∀ y, c y → y ⊑ x)
```
[the remark this answers is not in the document]
Comment (alexkeizer) [reply src/Init/Internal/Order/Basic.lean:122]: Ah, it is: I'd missed that there was a `namespace` command already in the unchanged bits of the file!

File: src/Init/Internal/Order/Basic.lean [hunk 29]
```diff
@@ -219,6 +267,73 @@ def admissible_pi (P : α → β → Prop)
...
+theorem lfp_monotone_fix {f : α → α} {hm : monotone f} :
+  lfp_monotone f hm = f (lfp_monotone f hm) := lfp_fix hm
+
+/--
+Park induction principle for least fixpoint.
+In general, this construction does not require monotonicity of `f`.
+Monotonicity is required to show that `lfp f` is indeed a fixpoint of `f`.
+-/
+theorem lfp_le_of_le {f : α → α} :
+  f x ⊑ x → lfp f ⊑ x := fun hx => inf_le hx
```
[the remark this answers is not in the document]
Comment (wkrozowski) [reply src/Init/Internal/Order/Basic.lean:324]: Sadly, the latter doesn't work, as eta conversion helps with figuring out metavariables

**Comment by wkrozowski** [comment]
Thanks @alexkeizer for your interest and comments. Just resolved them and changed the multiline strings, as @nomeata suggested.

File: tests/lean/run/mutual_termination_by_errors.lean [hunk 30]
```diff
@@ -0,0 +1,216 @@
...
+#guard_msgs in
+mutual
+  def f (x : Nat) : Prop :=
+    g (x + 1)
+  greatest_fixpoint
+
+  def g (x : Nat) : Prop :=
+    f (x + 1)
+  partial_fixpoint
+end
```
Comment (nomeata) [inline tests/lean/run/mutual_termination_by_errors.lean:152]: The error-message seems wrong. Either write ``Invalid `partial_fixpoint` `` (i.e. the keyword actually used), or to keep the code simple, write something generic like “Incompatibe termination hint“.

Comment (nomeata) [reply tests/lean/run/mutual_termination_by_errors.lean:152]: (And if you feel that the way this validation function works has outgrown the number of termination hint variants and have an idea how to refactor, feel free to.)

Comment (wkrozowski) [reply tests/lean/run/mutual_termination_by_errors.lean]: I like "incompatible termination hint" and changed error messages to consistently use that.

**Review by nomeata — APPROVED** [review]
🚀
